2167-04-23 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2167-4-22**] 01:10 PM
 MULTI LUMEN - START [**2167-4-22**] 01:12 PM
 EKG - At [**2167-4-22**] 01:45 PM
 BLOOD CULTURED - At [**2167-4-22**] 03:06 PM
   HD line
   venipuncture
 NASAL SWAB - At [**2167-4-22**] 03:06 PM
 FEVER - 101.3
F - [**2167-4-23**] 04:00 AM
   [**2167-4-22**]:
   - Patient underwent HD
   - IR contact[**Name (NI) **] to pull tunnelled HD catheter, will perform this morning
   and likely will place a temporary HD catheter.
   - seen by ID, no recs yet.
   - patient spiked fever to 101.3 this morning; lactate and cultures
   sent.
   - re-started on pressors in setting of fever and worsening hypotension
   several hours after dialysis ended
   ID recs:
1.  Please remove all lines (HD, R PIV in neck, R femoral line and culture all t
ips and replace when all surveillance cultures have cleared
2.  Please send another set of inflammatory markers in 1 week
3.  Please attain another TTE in a week as prior TTE was done too soon after [**First Name9 (NamePattern2) **]
[**Last Name (un) **] became positive
4.  Please consider abdominal imaging to assess for fluid collection
5.  Please attain 3 CDiff stools to rule our CDiff in setting of prior CDiff his
[**Doctor First Name **]
6. Please continue current antibiotic with Ceftazadime and we recommend once dos
e of Gentamicin (weight based/dosed)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2167-4-23**] 01:15 AM
   Ceftazidime - [**2167-4-23**] 02:53 AM
   Metronidazole - [**2167-4-23**] 06:27 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-4-22**] 04:17 PM
   Other medications:
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unchanged
   Flowsheet Data as of  [**2167-4-23**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.2
C (98.9
   HR: 65 (60 - 123) bpm
   BP: 99/48(34) {60/27(34) - 139/114(118)} mmHg
   RR: 11 (10 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.6 kg (admission): 81.6 kg
             Total In:
                                                                    227 mL
                                                                    374 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                    127 mL
                                                                    374 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    700 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    227 mL
                                                                   -326 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula (3L)
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General: Somnolent, but with repeated stimulation oriented to
   person/place
   HEENT: Right EJ line in place, no erythema/tenderness
   CV: Regular, 2/6 SEM throughout pericordium
   Lungs/chest: CTA bilaterally; no apparent tenderness over pacer pocket;
   right HD line in place (removed at time of rounds) with no
   erythema/tenderness
   Abdomen: Soft, NT/ND, +NABS
   Extremities: Femoral line in place, no erythema/tenderness; small
   splinter hemorrhage in left thumbnail but otherwise no stigmata of
   endocarditis; multiple lesions on feet appear to be healing
   Labs / Radiology
   190 K/uL
   9.8 g/dL
   97 mg/dL
   3.1 mg/dL
   27 mEq/L
   4.0 mEq/L
   28 mg/dL
   100 mEq/L
   137 mEq/L
   30.5 %
   44.1 K/uL
        [image002.jpg]
                             [**2167-4-22**]  07:45 PM
                             [**2167-4-23**]  04:26 AM
   WBC
   17.3
   44.1
   Hct
   28.3
   30.5
   Plt
   139
   190
   Cr
   5.2
   3.1
   Glucose
   147
   97
   Other labs:
   PT / PTT / INR:12.1/28.8/1.0,
   Differential-Neuts:97.0 %, Band:0.0 %, Lymph:0.0 %, Mono:2.0 %, Eos:0.0
   %,
   Lactic Acid: 1.2 mmol/L,
   Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   ESR = 39
   CRP = pending
   LFTs = pending
   [**4-22**] CXR
 small left effusion; low volumes.
   Micro:
   [**2167-4-17**] BLOOD CULTURE (Preliminary)
            Aerobic bottle:  CORYNEBACTERIUM SPECIES
            Anaerobic bottle: No growth
   [**2167-4-17**] BLOOD CULTURE (Preliminary)
           No Growth to Date.
   [**2167-4-19**]: URINE CULTURE (FINAL)
            >100,000 org/ml  PSEUDOMONAS AERUGINOSA
   CEFTAZIDIME          S
   CEFTRIAXONE          I
   CIPROFLOXACIN        S
   GENTAMICIN           S
   PIPERACILLIN         S
   [**2167-4-19**]: BLOOD CULTURE (FINAL)
   [**2167-4-19**]: BLOOD CULTURE (FINAL) - peripheral
            Aerobic bottle:  PSEUDOMONAS AERUGINOSA
            Anaerobic bottle:  No growth
            1.  PSEUDOMONAS AERUGINOSA
   CEFTAZIDIME          S
   CEFTRIAXONE          I
   CIPROFLOXACIN        S
   GENTAMICIN           S
   PIPERACILLIN         S
   [**2167-4-19**]: BLOOD CULTURE (FINAL) - peripheral
            Aerobic bottle:  PSEUDOMONAS AERUGINOSA
            Anaerobic bottle:  PSEUDOMONAS AERUGINOSA
   [**2167-4-20**]: BLOOD CULTURE (PRELIM) - peripheral
            Anaerobic bottle: no growth
            Aerobic bottle:  COAG NEG STAPHYLOCOCCUS
                             PSEUDOMONAS AERUGINOSA
   [**2167-4-20**] BLOOD CULTURE  (PRELIM) - peripheral
            Anaerobic bottle: no growth
            Aerobic bottle:  PSEUDOMONAS AERUGINOSA
   [**2167-4-22**]
 BCx NGTD
   [**2167-4-23**]
 BCx NGTD
   Assessment and Plan
   Mr. [**Known lastname 12630**] is a 70yo M w/hx of ESRD on HD, CHF (EF 30-35%), PVD, DM, CAD
   who was transferred from [**Hospital1 **] [**Location (un) 3**] with pseudomonas and GPC
   bacteremia associated with hypotension and fever.
   .
   1. Sepsis/Psuedomonas bacteremia: Normotensive on presentation, but
   febrile and hypotensive overnight several hours after dialysis.
   Bacteremia likely acquired from urine source as pt has positive UTI.
   Echo done at OSH negative for vegetations.  Although pt has mumur on
   exam, he states this has been present in the past and concern for
   endocarditis is low.  He has been on ceftaz for 2 days.  Unclear where
   the pseudomonas is growing, but likely line is infected. Lactate is
   normal WBC increased from 17 to 44 overnight. Diff shows 97% PMNs but
   no bands. Normal lactate reassuring.
   - ID consult
   - Continue Ceftaz, vanco per ID recommendations
   - Continue Gent until cultures clear
   - Antibiotic dosing: vanco with dialysis; ceftaz usually dosed with
   dialysis but patient will be on HD holiday; will discuss dosing plan
   with ID and pharmacy (may change to [**Last Name (un) **]; would need to determine [**Last Name (un) **]
   sensitivities from micro)
   - Consider abdominal imaging per ID recs to rule out other collections
   - Consider repeat L spine imaging to rule out abscess given back pain,
   bacteremia
   - US pacer/AICD pocket
   - Monitor for signs of endocarditis; TEE later this week for higher
   quality imaging
   - Trend repeat blood cultures
   - Removed HD line [**4-23**] by IR
 tip culture pending
   - Plan to maintain femoral line for pressors/abx for now; remove EJ
   line; plan for line holiday until cx clear for 24 hours (culture tips)
   - Attempt to place peripheral line earlier rather than later as patient
   will become more edematous with time
   - Trend stool x 3 for C. diff (1^st sample pending)
   - Add-on LFTs
   - F/U CRP
   .
   2. GPCs in blood: Possibly contaminate given it is in [**1-12**] bottles.
   Other concern is for gram positive bacteremia
   - continue vancomycin dosed per HD
   - redrawn blood cultures
   - f/u cultures from OSH
   - f/u vanc levels
   .
   3. Hypotension: pt required dopamine gtt which was weaned yesterday;
   now on levophed. Differential includes sepsis given bactermia vs
   hypovolemia given setting of dialysis.  Cardiac event seems unlikely
   given negative enzymes or ECG changes, although echo did show new wall
   motion abnormalities in the anterior wall, septum and apex. Patient
   developed hypotension again overnight to SBPs in 70s
 started on
   Levophed. This occurred post-HD so could be secondary to hypovolemia,
   but given patient also febrile and episode several hours post-dialysis
   concerning for continued sepsis.
   - Continue to monitor BPs
   - Wean pressors when tolerated
   .
   4. ESRD on HD: will need new line placed after line holiday (48 hours
   culture negative) for bacteremia.
   - renal dialysis team consult
   - f/u cultures
   - HD line removed [**4-23**]
   - nephrocaps, phos binder with calcium, sevelamer
   .
   5. PVD: continue Pentoxifylline
   .
   6. Back Pain: appears chronic per patient although more severe in the
   past 1 week.  CT scan at OSH does not show epidural abscess.  Exam not
   concerning for abscess, cord compression or cauda equina syndrome.
   Ultram appears to be sedating to him.  Was seen as OSH by neurosurgery
   who recommended CT scan.
   - continue to monitor
   - pain control with oxycodone prn, standing tylenol
   - lidocaine patch
   - PT consult
   - pain consult today for ? injection
   .
   7. CAD: continue aspirin, statin
   - hold b-blocker in the setting of hypotension
   .
   8. DM: has been hypoglycemic during HD. Not currently on any oral
   hyperglycemic agents.
   - humalog SS
   .
   # FEN: No IVF, replete electrolytes, renal/cardiac diabetic diet as
   tolerated; 1500 cc fluid restriction daily
   # Prophylaxis: Subcutaneous heparin, pneumoboots
   # Access: peripheral in right EJ, femoral CVL
 see plan above
   # Communication: Son is HCP
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2167-4-22**] 01:09 PM
   Tunneled (Hickman) Line - [**2167-4-22**] 01:10 PM
   Multi Lumen - [**2167-4-22**] 01:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2167-04-23 09:54:00 Physician Attending Progress Note
Chief Complaint: acute renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 yo man with ESRD on HD, admitted with sepsis, pseudomonal
   bacteremia.  Had HD yesterday - only
   took out 700ml.  became hypotensive and febrile few hours later.  SBP
   to 70s.  Started on levophed.  HD line removed this morning.
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2167-4-22**] 01:10 PM
 MULTI LUMEN - START [**2167-4-22**] 01:12 PM
 EKG - At [**2167-4-22**] 01:45 PM
 BLOOD CULTURED - At [**2167-4-22**] 03:06 PM
   HD line
   venipuncture
 NASAL SWAB - At [**2167-4-22**] 03:06 PM
 FEVER - 101.3
F - [**2167-4-23**] 04:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2167-4-23**] 01:15 AM
   Ceftazidime - [**2167-4-23**] 02:53 AM
   Metronidazole - [**2167-4-23**] 06:27 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-4-22**] 04:17 PM
   Other medications:
   s/q heparin
   asa
   finasteride
   calcium acetate
   tamsulosin
   nephrocaps
   ferrous SO
   gabapentin
   folate
   levoxyl
   prilosec
   pentoxifylline
   simvastatin
   sevalemer
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-23**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.7
C (98.1
   HR: 63 (60 - 123) bpm
   BP: 112/50(66) {60/27(34) - 139/114(118)} mmHg
   RR: 13 (10 - 18) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.6 kg (admission): 81.6 kg
             Total In:
                                                                    227 mL
                                                                    612 mL
   PO:
                                                                    100 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    127 mL
                                                                    412 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    700 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    227 mL
                                                                    -88 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   190 K/uL
   97 mg/dL
   3.1 mg/dL
   27 mEq/L
   4.0 mEq/L
   28 mg/dL
   100 mEq/L
   137 mEq/L
   30.5 %
   44.1 K/uL
        [image002.jpg]
                             [**2167-4-22**]  07:45 PM
                             [**2167-4-23**]  04:26 AM
   WBC
   17.3
   44.1
   Hct
   28.3
   30.5
   Plt
   139
   190
   Cr
   5.2
   3.1
   Glucose
   147
   97
   Other labs: PT / PTT / INR:12.1/28.8/1.0, Differential-Neuts:97.0 %,
   Band:0.0 %, Lymph:0.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L,
   Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Febrile and HOTNsive:  may have become bacteremic in setting of access
   of line.  HD line now out.  Wean levophed off.
   Continue ceftaz and gent for pseudomonas bacteremia.
   ESRD:  HD line removed.  New line in 48 hours.
   Back pain:  standing tylenol, lidocaine,
   CAD: on aspirin, statin.
   DM:  on SSI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2167-4-22**] 01:09 PM
   Multi Lumen - [**2167-4-22**] 01:12 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2167-04-24 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - STOP [**2167-4-23**] 09:10 AM
 BLOOD CULTURED - At [**2167-4-23**] 09:39 AM
   HD line tip
 ULTRASOUND - At [**2167-4-23**] 10:40 AM
   pacer pocket
 BLOOD CULTURED - At [**2167-4-23**] 01:06 PM
   R Fem MLC
 BLOOD CULTURED - At [**2167-4-23**] 03:30 PM
   REJ line tip
   [**2167-4-23**]:
   - HD catheter line pulled and tip cultured
   - EJ pulled and cultured
   - femoral line remains as still pressor requirement
   - GNR in aerobic bottle from [**4-22**] (not yet speciated)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2167-4-23**] 01:15 AM
   Ceftazidime - [**2167-4-23**] 02:53 AM
   Metronidazole - [**2167-4-24**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-4-24**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-24**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 65 (60 - 74) bpm
   BP: 88/53(58) {88/47(34) - 115/69(80)} mmHg
   RR: 10 (10 - 16) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.6 kg (admission): 81.6 kg
             Total In:
                                                                  1,755 mL
                                                                    339 mL
   PO:
                                                                    990 mL
                                                                    175 mL
   TF:
   IVF:
                                                                    765 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,055 mL
                                                                    339 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General: Awake/alert but uncomfortable with movement, states
I feel
   terrible
   HEENT: Right EJ line removed, no erythema/tenderness at site. On O2 by
   NC.
   CV: Regular, 2/6 SEM throughout precordium
   Lungs/chest: CTA bilaterally; no apparent tenderness over pacer pocket;
   right HD line in place (removed at time of rounds) with no
   erythema/tenderness
   Abdomen: Soft, NT/ND, +NABS
   Extremities: Femoral line in place, no erythema/tenderness; small
   splinter hemorrhage in left thumbnail but otherwise no stigmata of
   endocarditis; multiple lesions on feet appear to be healing. Arms
   wrapped in gauze [**2-10**] multiple skin tears/trauma from blood draws
   Labs / Radiology
   125 K/uL
   7.7 g/dL
   72 mg/dL
   4.1 mg/dL
   26 mEq/L
   4.3 mEq/L
   39 mg/dL
   101 mEq/L
   136 mEq/L
   23.4 %
   16.3 K/uL
        [image002.jpg]
                             [**2167-4-22**]  07:45 PM
                             [**2167-4-23**]  04:26 AM
                             [**2167-4-24**]  02:16 AM
   WBC
   17.3
   44.1
   16.3
   Hct
   28.3
   30.5
   23.4
   Plt
   139
   190
   125
   Cr
   5.2
   3.1
   4.1
   Glucose
   147
   97
   72
   Other labs:
   PT / PTT / INR:12.6/30.8/1.1,
   ALT / AST:17/21, Alk Phos / T Bili:328/0.4,
   Differential-Neuts:90.5 %, Band:0.0 %, Lymph:7.3 %, Mono:1.8 %, Eos:0.3
   %,
   Lactic Acid:1.2 mmol/L, Albumin:2.2 g/dL, LDH:251 IU/L,
   Ca++:6.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Micro:
   - [**2167-4-22**]: Blood culture 1/4 bottles (aerobic) positive for GNR
   - [**2167-4-23**]: C. difficile positive
   - All other cultures (blood, catheter, MRSA screen) pending/NGTD
   Assessment and Plan
   Mr. [**Known lastname 12630**] is a 70yo M w/hx of ESRD on HD, CHF (EF 30-35%), PVD, DM, CAD
   who was transferred from [**Hospital1 **] [**Location (un) 3**] with pseudomonas and GPC
   bacteremia associated with hypotension and fever.
   .
   1. Sepsis/Psuedomonas bacteremia: Normotensive on presentation, but
   febrile and hypotensive overnight several hours after dialysis.
   Bacteremia likely acquired from urine source as pt has positive UTI.
   Echo done at OSH negative for vegetations.  Although pt has mumur on
   exam, he states this has been present in the past and concern for
   endocarditis is low.  He has been on ceftaz for 2 days.  Unclear where
   the pseudomonas is growing, but likely line is infected. Culture
   positive for GNR on [**4-22**] (likely pseudomonas) in [**1-12**] aerobic bottle so
   far. HD and EJ lines have been removed; femoral line remains in place.
   - Follow up ID recommendations (appreciated!)
   - Continue Ceftaz, Gent, Flagyl (will need 4 week course of Abx; Gent
   should continue at least until BCx clear)
   - Confirm Ceftaz with ID team given HD dosing and difficulty of
   checking levels; will check [**Last Name (un) **] sensitivities when newest culture is
   speciated
   - Consider abdominal imaging per ID recs to rule out other collections
   - Consider repeat L spine imaging to rule out abscess given back pain,
   bacteremia
   - F/U US of pacer/AICD pocket (done yesterday, no read)
   - Monitor for signs of endocarditis; TEE later this week for higher
   quality imaging
   - Consider TTE today per ID recs
   - Trend surveillence blood cultures, catheter tip cultures
   - Removed HD line [**4-23**] by IR
 tip culture pending
   - Plan to maintain femoral line for pressors/abx for now; remove EJ
   line; plan for line holiday until cx clear for 24 hours (culture tips)
   - Attempt to place peripheral line earlier rather than later as patient
   will become more edematous with time
   .
   2. GPCs in blood: Possibly contaminate given it is in [**1-12**] bottles.
   Other concern is for gram positive bacteremia
   - continue vancomycin dosed per HD
   - redrawn blood cultures
   - f/u cultures from OSH
   .
   3. Hypotension: pt required dopamine gtt which was weaned yesterday;
   then on levophed, now off of pressors. Differential includes sepsis
   given bactermia vs hypovolemia given setting of dialysis.  Cardiac
   event seems unlikely given negative enzymes or ECG changes, although
   echo did show new wall motion abnormalities in the anterior wall,
   septum and apex. Patient developed hypotension again overnight to SBPs
   in 70s
 started on Levophed. This occurred post-HD so could be
   secondary to hypovolemia, but given patient also febrile and episode
   several hours post-dialysis concerning for continued sepsis.
   - Continue to monitor BPs
   .
   4. ESRD on HD: will need new line placed after line holiday (48 hours
   culture negative) for bacteremia.  If unable to wait for surveillance
   cx (definite possibility per renal note), will need temporary line
   placement.
   - renal dialysis team consulting
 appreciate recs!
   - f/u cultures
   - HD line removed [**4-23**]
   - nephrocaps, phos binder with calcium, sevelamer
   - 1500 cc fluid restriction
   .
   5. PVD: continue Pentoxifylline
   .
   6. Back Pain: appears chronic per patient although more severe in the
   past 1 week.  CT scan at OSH does not show epidural abscess.  Exam not
   concerning for abscess, cord compression or cauda equina syndrome.
   Ultram appears to be sedating to him.  Was seen as OSH by neurosurgery
   who recommended CT scan.
   - continue to monitor
   - pain control with oxycodone prn, standing tylenol
   - lidocaine patch
   - PT consult
   - Consider pain consult if sx worsen
   .
   7. CAD: continue aspirin, statin
   - hold b-blocker in the setting of hypotension
   .
   8. DM: has been hypoglycemic during HD. Not currently on any oral
   hyperglycemic agents.
   - humalog SS
   9. Drop in Hct: Possibly dilutional given all cell lines decreased
   today. No signs of active bleeding.
   - Guaiac all stools
   - Repeat Hct, trend PRN
   - Transfuse for < 22 (would avoid the extra fluid if possible)
   .
   # FEN: No IVF, replete electrolytes, renal/cardiac diabetic diet as
   tolerated; 1500 cc fluid restriction daily
   # Prophylaxis: Subcutaneous heparin, pneumoboots
   # Access: Femoral CVL
 see plan above
   # Communication: Son is HCP
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-4-22**] 01:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2167-04-24 10:58:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 yo man with ESRD, admitted with PSA line infection and bactermia.
   Has done well, off pressors.
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - STOP [**2167-4-23**] 09:10 AM
 BLOOD CULTURED - At [**2167-4-23**] 09:39 AM
   HD line tip
 ULTRASOUND - At [**2167-4-23**] 10:40 AM
   pacer pocket
 BLOOD CULTURED - At [**2167-4-23**] 01:06 PM
   R Fem MLC
 BLOOD CULTURED - At [**2167-4-23**] 03:30 PM
   REJ line tip
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2167-4-23**] 01:15 AM
   Ceftazidime - [**2167-4-23**] 02:53 AM
   Metronidazole - [**2167-4-24**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-4-24**] 01:00 AM
   Other medications:
   asa
   finasteride
   flomax
   nephrocaps
   FESo4
   folate
   levoxyl
   prilosec
   pentoxifylline
   SSI
   lipitor
   sevelamer
   lido patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2167-4-24**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 62 (60 - 74) bpm
   BP: 111/56(69) {88/48(58) - 115/69(80)} mmHg
   RR: 12 (10 - 16) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.6 kg (admission): 81.6 kg
             Total In:
                                                                  1,755 mL
                                                                    481 mL
   PO:
                                                                    990 mL
                                                                    175 mL
   TF:
   IVF:
                                                                    765 mL
                                                                    306 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,055 mL
                                                                    481 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   125 K/uL
   72 mg/dL
   4.1 mg/dL
   26 mEq/L
   4.3 mEq/L
   39 mg/dL
   101 mEq/L
   136 mEq/L
   23.4 %
   16.3 K/uL
        [image002.jpg]
                             [**2167-4-22**]  07:45 PM
                             [**2167-4-23**]  04:26 AM
                             [**2167-4-24**]  02:16 AM
   WBC
   17.3
   44.1
   16.3
   Hct
   28.3
   30.5
   23.4
   Plt
   139
   190
   125
   Cr
   5.2
   3.1
   4.1
   Glucose
   147
   97
   72
   Other labs: PT / PTT / INR:12.6/30.8/1.1, ALT / AST:17/21, Alk Phos / T
   Bili:328/0.4, Differential-Neuts:90.5 %, Band:0.0 %, Lymph:7.3 %,
   Mono:1.8 %, Eos:0.3 %, Lactic Acid:1.2 mmol/L, Albumin:2.2 g/dL,
   LDH:251 IU/L, Ca++:6.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Microbiology: 4/14 [**1-10**] sets positive for PSA
   Assessment and Plan
 .H/O BACK PAIN
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 IMPAIRED SKIN INTEGRITY
 SEPSIS WITHOUT ORGAN DYSFUNCTION:
   GNRs:  change ceftaz to meropenem and also on gentamicin.  TTE today.
   Will get a PIC line for him, and get rid of groin line.
   ESRD on HD:  temporary line tomorrow or Sunday.
   C. diff:  Continue flagyl PO.
   Pain:  Will get pain consult to make suggestions for his back pain.
   Currently on lido patch, oxycodone, tylenol
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-4-22**] 01:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2167-04-25 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2167-4-24**] 06:30 PM
 MULTI LUMEN - STOP [**2167-4-24**] 10:17 PM
   - catheter tip: growing GNR
   - ABX - changed to meropenem (from ceftaz for non-HD dosing) and
   continued on gentamycin for pseudomonas, Flagyl PO for C. Diff
   - Pain service - no change in pain regimen
   - Renal: no need for HD today, will eval daily - may need tomorrow, ok
   for abdominal CT if ID wants it
   - Ordered for TTE and TEE to evaluate for endocarditis
   - PICC line placed (could not advance any further and tip read as
   ending in brachiocephalic not distal SVC). Recommmendation was that if
   needs ABX for longer than mid-week next week then have IR place another
   PICC so can get tip in distal SVC.
   - Femoral line pulled and catheter tip cultured
   - pt found to be hypotensive to systolic 76-80s at 7am-10am; got 250 cc
   bolus IVF; ? slightly sleepy.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2167-4-23**] 01:15 AM
   Ceftazidime - [**2167-4-23**] 02:53 AM
   Metronidazole - [**2167-4-25**] 12:54 AM
   Meropenem - [**2167-4-25**] 06:45 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unchanged
   Flowsheet Data as of  [**2167-4-25**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 68 (60 - 70) bpm
   BP: 93/53(63) {82/46(34) - 120/68(86)} mmHg
   RR: 11 (6 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.6 kg (admission): 81.6 kg
             Total In:
                                                                  1,220 mL
                                                                    762 mL
   PO:
                                                                    805 mL
                                                                    650 mL
   TF:
   IVF:
                                                                    415 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,220 mL
                                                                    762 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General: Awake/alert, comfortable, and in NAD
   HEENT: Right EJ line removed, no erythema/tenderness at site. On O2 by
   NC.
   CV: Regular, 2/6 SEM throughout precordium
   Lungs/chest: CTA bilaterally; no apparent tenderness over pacer pocket;
   right HD removed  with no erythema/tenderness
   Abdomen: Soft, NT/ND, +NABS
   Extremities: multiple lesions on feet appear to be healing. Arms
   wrapped in gauze [**2-10**] multiple skin tears/trauma from blood draws
   Labs / Radiology
   176 K/uL
   8.4 g/dL
   55 mg/dL
   4.9 mg/dL
   24 mEq/L
   4.7 mEq/L
   52 mg/dL
   96 mEq/L
   132 mEq/L
   25.4 %
   14.9 K/uL
        [image002.jpg]
                             [**2167-4-22**]  07:45 PM
                             [**2167-4-23**]  04:26 AM
                             [**2167-4-24**]  02:16 AM
                             [**2167-4-24**]  12:30 PM
                             [**2167-4-24**]  05:35 PM
                             [**2167-4-25**]  04:10 AM
   WBC
   17.3
   44.1
   16.3
   18.7
   14.9
   Hct
   28.3
   30.5
   23.4
   25.2
   26.7
   25.4
   Plt
   139
   190
   125
   154
   176
   Cr
   5.2
   3.1
   4.1
   4.5
   4.9
   Glucose
   147
   97
   72
   64
   55
   Other labs: PT / PTT / INR:13.0/34.4/1.1, ALT / AST:17/21, Alk Phos / T
   Bili:328/0.4, Differential-Neuts:90.5 %, Band:0.0 %, Lymph:7.3 %,
   Mono:1.8 %, Eos:0.3 %, Lactic Acid:1.2 mmol/L, Albumin:2.2 g/dL,
   LDH:251 IU/L, Ca++:6.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 12630**] is a 70yo M w/hx of ESRD on HD, CHF (EF 30-35%), PVD, DM, CAD
   who was transferred from [**Hospital1 **] [**Location (un) 3**] with pseudomonas and GPC
   bacteremia associated with hypotension and fever.
   .
   1. Sepsis/Psuedomonas bacteremia: Normotensive on presentation, but
   febrile and hypotensive overnight on hospital day 1 several hours after
   dialysis.  Bacteremia likely acquired from urine source as pt has
   positive UTI.  Echo done at OSH negative for vegetations.  Although pt
   has mumur on exam, he states this has been present in the past and
   concern for endocarditis is low.  He had been on ceftaz for 2 days.
   Unclear where the pseudomonas is growing, but likely line is infected.
   Culture positive for GNR on [**4-22**] (pseudomonas) in [**1-12**] aerobic bottle so
   far. HD, femoral, and EJ lines have been removed. HD line growing GNR.
   - Follow up ID recommendations (appreciated!)
   - Continue Gent, Flagyl (will need 4 week course of Abx; Gent should
   continue at least until BCx clear)
   - Changed ceftaz (difficulty with HD dosing) to meropenem until patient
   back on HD
   - surveillance blood cultures
   - PICC line in place
   - F/U on TTE; TEE likely next week.
   - F/U pacer/AICD pocket ultrasound
 No evidence of fluid collection or
   abscess in the right chest.
   - consider repeat L spine imaging
   .
   2. GPCs in blood: Possibly contaminate given it is in [**1-12**] bottles.
   Other concern is for gram positive bacteremia
   - continue vancomycin dosed per HD
   - redraw blood cultures daily
   - f/u cultures from OSH
   .
   3. Hypotension: pt required dopamine gtt which was weaned yesterday;
   then on levophed, now off of pressors. Differential includes sepsis
   given bactermia vs hypovolemia given setting of dialysis.  Cardiac
   event seems unlikely given negative enzymes or ECG changes, although
   echo did show new wall motion abnormalities in the anterior wall,
   septum and apex. Patient developed hypotension again overnight to SBPs
   in 70s
 started on Levophed. This occurred post-HD so could be
   secondary to hypovolemia, but given patient also febrile and episode
   several hours post-dialysis concerning for continued sepsis.
   - Continue to monitor BPs
   - Pt hypotensive this morning [**4-25**] to systolics in 70s-80s; given 250
   cc fluid bolus.  Not tachycardic, had been given opiates so this may
   have contributed.
   - Hold tamsulosin as may be contributing to hypotension
   .
   4. ESRD on HD: will need new line placed after line holiday (48 hours
   culture negative) for bacteremia.  If unable to wait for surveillance
   cx (definite possibility per renal note), will need temporary line
   placement.
   - renal dialysis team consulting
 appreciate recs!
   - f/u cultures
   - HD line removed [**4-23**]
   - nephrocaps, phos binder with calcium, sevelamer
   - 1500 cc fluid restriction
   .
   5.  C. Diff associated disease
    - continue flagyl
   -  f/u ID recs
   6. PVD: continue Pentoxifylline
   .
   7. Back Pain: appears chronic per patient although more severe in the
   past 1 week.  CT scan at OSH does not show epidural abscess.  Exam not
   concerning for abscess, cord compression or cauda equina syndrome.
   Ultram appears to be sedating to him.  Was seen as OSH by neurosurgery
   who recommended CT scan.
   - continue to monitor
   - pain control with oxycodone prn, standing tylenol
   - lidocaine patch
   - PT consult
   .
   8. CAD: continue aspirin, statin
   - hold b-blocker in the setting of hypotension
   .
   9. DM: has been hypoglycemic during HD. Not currently on any oral
   hyperglycemic agents.
   - humalog SS
   10. Drop in Hct: Possibly dilutional given all cell lines decreased
   today. No signs of active bleeding.
   - Guaiac all stools
   - Repeat Hct, trend PRN
   - Transfuse for < 22 (would avoid the extra fluid if possible)
   .
   # FEN: No IVF, replete electrolytes, renal/cardiac diabetic diet as
   tolerated; 1500 cc fluid restriction daily
   # Prophylaxis: Subcutaneous heparin, pneumoboots
   # Access: PICC
   # Communication: Son is HCP
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2167-4-24**] 06:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2167-04-25 10:07:00 Physician Attending Progress Note
Chief Complaint: Septic shock, ESRD
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Worsened back pain this AM
   SBP transiently 80 after getting oxycodone
   24 Hour Events:
 PICC LINE - START [**2167-4-24**] 06:30 PM
 MULTI LUMEN - STOP [**2167-4-24**] 10:17 PM
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2167-4-23**] 01:15 AM
   Ceftazidime - [**2167-4-23**] 02:53 AM
   Metronidazole - [**2167-4-25**] 12:54 AM
   Meropenem - [**2167-4-25**] 06:45 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Musculoskeletal: back pain
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2167-4-25**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 61 (60 - 70) bpm
   BP: 76/48(54) {76/46(34) - 119/66(86)} mmHg
   RR: 13 (8 - 18) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.6 kg (admission): 81.6 kg
             Total In:
                                                                  1,220 mL
                                                                  1,342 mL
   PO:
                                                                    805 mL
                                                                    970 mL
   TF:
   IVF:
                                                                    415 mL
                                                                    372 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,220 mL
                                                                  1,342 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, somnolent
   Labs / Radiology
   8.4 g/dL
   176 K/uL
   55 mg/dL
   4.9 mg/dL
   24 mEq/L
   4.7 mEq/L
   52 mg/dL
   96 mEq/L
   132 mEq/L
   25.4 %
   14.9 K/uL
        [image002.jpg]
                             [**2167-4-22**]  07:45 PM
                             [**2167-4-23**]  04:26 AM
                             [**2167-4-24**]  02:16 AM
                             [**2167-4-24**]  12:30 PM
                             [**2167-4-24**]  05:35 PM
                             [**2167-4-25**]  04:10 AM
   WBC
   17.3
   44.1
   16.3
   18.7
   14.9
   Hct
   28.3
   30.5
   23.4
   25.2
   26.7
   25.4
   Plt
   139
   190
   125
   154
   176
   Cr
   5.2
   3.1
   4.1
   4.5
   4.9
   Glucose
   147
   97
   72
   64
   55
   Other labs: PT / PTT / INR:13.0/34.4/1.1, ALT / AST:17/21, Alk Phos / T
   Bili:328/0.4, Differential-Neuts:90.5 %, Band:0.0 %, Lymph:7.3 %,
   Mono:1.8 %, Eos:0.3 %, Lactic Acid:1.2 mmol/L, Albumin:2.2 g/dL,
   LDH:251 IU/L, Ca++:6.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 .H/O BACK PAIN
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 IMPAIRED SKIN INTEGRITY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   70 yo man with ESRD here with resolving shock in setting of pseudomonal
   HD cath infection.
   GNRs:  Cont [**Last Name (un) **]/gent.  Follow u/p TTE results
   ESRD on HD:  Will plan on new HD line tomorrow.
   C. diff:  Continue flagyl PO.
   Pain:  Appreciate pain service recs.
   Reaminder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2167-4-24**] 06:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 32 minutes
   Patient is critically ill

2167-04-26 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2167-4-25**] 09:27 AM
   - Patient became hypotensive into 60s (asymptomatic). Vasopressin
   started.
   - CT abd/pelvis non-contrast looking for abdominal source: New small to
   moderate bilateral pleural effusions with simple fluid attenuation,
   there is associate compressive atelectasis.  There has been prior
   mediastinotomy.  Pacer wires seen.  Coronary artery calcifications.
   Large stones in gallbladder (unchanged).  Cystic lesions in pancreas.
   Left upper pole mass, left lower pole cyst, right heterogeneous lower
   pole lesions are poorly evaluated.
   No free air in abdomen.  Mild diffuse mesenteric stranding and
   anasarca. No RP lymphadenopathy.
   1. no acute intraabdominal/pelvic process to explain symptoms
   2. multiple pancreatic/renal lesions
   3. cholelithiasis without cholecystitis.
   4. new small to moderate bilateral pleural effusions
   TTE:
   The left atrium is elongated. Left ventricular wall thicknesses are
   normal. The left ventricular cavity size is normal. Due to suboptimal
   technical quality, a focal wall motion abnormality cannot be fully
   excluded. LV systolic function appears depressed (ejection fraction ?
   30 percent). The estimated cardiac index is depressed (<2.0L/min/m2).
   Right ventricular chamber size and free wall motion are normal. The
   number of aortic valve leaflets cannot be determined. The aortic valve
   leaflets are moderately thickened. The aortic valve is not well seen.
   No masses or vegetations are seen on the aortic valve, but cannot be
   fully excluded due to suboptimal image quality. There is at least mild
   aortic valve stenosis (valve area 1.2-1.9cm2). The mitral valve
   leaflets are mildly thickened. No masses or vegetations are seen on the
   mitral valve, but cannot be fully excluded due to suboptimal image
   quality. Trivial mitral regurgitation is seen. The left ventricular
   inflow pattern suggests impaired relaxation. The tricuspid valve
   leaflets are mildly thickened. No masses or vegetations are seen on the
   tricuspid valve, but cannot be fully excluded due to suboptimal image
   quality. The estimated pulmonary artery systolic pressure is normal.
   There is no pericardial effusion.
   IMPRESSION: Suboptimal image quality. No obvious vegetations;
   significant left ventricular contractile dysfunction and aortic
   stenosis
   CLINICAL IMPLICATIONS:
   If clinically suggested, the absence of a vegetation by 2D
   echocardiography does not exclude endocarditis.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2167-4-25**] 12:54 AM
   Meropenem - [**2167-4-25**] 06:45 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-4-25**] 04:05 PM
   Other medications:
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unchanged
   Flowsheet Data as of  [**2167-4-26**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.9
C (96.7
   HR: 60 (60 - 72) bpm
   BP: 103/67(76) {73/37(46) - 136/78(88)} mmHg
   RR: 11 (0 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.6 kg (admission): 81.6 kg
             Total In:
                                                                  2,625 mL
                                                                     84 mL
   PO:
                                                                  1,230 mL
             TF:
   IVF:
                                                                    495 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,625 mL
                                                                     84 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General: Awake/alert, comfortable, and in NAD
   HEENT: NC/AT. On O2 by NC.
   CV: Regular, 2/6 SEM throughout precordium
   Lungs/chest: CTA bilaterally; no apparent tenderness over pacer pocket;
   right HD removed  with no erythema/tenderness
   Abdomen: Soft, NT/ND, +NABS
   Extremities: multiple lesions on feet appear to be healing. Arms
   wrapped in gauze [**2-10**] multiple skin tears/trauma from blood draws
   Labs / Radiology
   149 K/uL
   8.3 g/dL
   95
   5.3 mg/dL
   22 mEq/L
   5.1 mEq/L
   58 mg/dL
   97 mEq/L
   132 mEq/L
   25.6 %
   12.2 K/uL
        [image002.jpg]
                             [**2167-4-22**]  07:45 PM
                             [**2167-4-23**]  04:26 AM
                             [**2167-4-24**]  02:16 AM
                             [**2167-4-24**]  12:30 PM
                             [**2167-4-24**]  05:35 PM
                             [**2167-4-25**]  04:10 AM
                             [**2167-4-26**]  03:08 AM
                             [**2167-4-26**]  07:00 AM
   WBC
   17.3
   44.1
   16.3
   18.7
   14.9
   12.2
   Hct
   28.3
   30.5
   23.4
   25.2
   26.7
   25.4
   25.6
   Plt
   139
   190
   125
   154
   176
   149
   Cr
   5.2
   3.1
   4.1
   4.5
   4.9
   5.3
   Glucose
   147
   97
   72
   64
   55
   96
   95
   Other labs: PT / PTT / INR:13.3/35.9/1.1, ALT / AST:17/21, Alk Phos / T
   Bili:328/0.4, Differential-Neuts:90.5 %, Band:0.0 %, Lymph:7.3 %,
   Mono:1.8 %, Eos:0.3 %, Lactic Acid:1.2 mmol/L, Albumin:2.2 g/dL,
   LDH:251 IU/L, Ca++:6.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 12630**] is a 70yo M w/hx of ESRD on HD, CHF (EF 30-35%), PVD, DM, CAD
   who was transferred from [**Hospital1 **] [**Location (un) 3**] with pseudomonas and GPC
   bacteremia associated with hypotension and fever.
   .
   1. Sepsis/Psuedomonas bacteremia: Normotensive on presentation, but
   febrile and hypotensive overnight on hospital day 1 several hours after
   dialysis.  Bacteremia likely acquired from urine source as pt has
   positive UTI.  Echo done at OSH negative for vegetations.  Although pt
   has mumur on exam, he states this has been present in the past and
   concern for endocarditis is low.  He had been on ceftaz for 2 days.
   Unclear where the pseudomonas is growing, but likely line is infected.
   Culture positive for GNR on [**4-22**] (pseudomonas) in [**1-12**] aerobic bottle so
   far. HD, femoral, and EJ lines have been removed. HD line growing GNR.
   - Follow up ID recommendations (appreciated!)
   - Continue Gent, Flagyl (will need 4 week course of Abx; Gent should
   continue at least until BCx clear)
   - Changed ceftaz (difficulty with HD dosing) to meropenem until patient
   back on HD
   - surveillance blood cultures daily
   - PICC line in place
   - suboptimal TTE; TEE likely next week.
   - pacer/AICD pocket ultrasound
 No evidence of fluid collection or
   abscess in the right chest.
   - Abd/pelvis CT without appreciable abscess or cause for sepsis
   .
   2. GPCs in blood: Possibly contaminate given it is in [**1-12**] bottles.
   Other concern is for gram positive bacteremia
   - discontinue vancomycin dosed per HD for now
   - redraw blood cultures daily
   - f/u cultures from OSH
   .
   3. Hypotension: pt required dopamine gtt which was weaned yesterday;
   then on levophed, off of pressors transiently and now. Differential
   includes sepsis given bactermia vs hypovolemia given setting of
   dialysis.  Cardiac event seems unlikely given negative enzymes or ECG
   changes, although echo did show new wall motion abnormalities in the
   anterior wall, septum and apex. Patient developed hypotension again
   overnight to SBPs in 70s
 started on Levophed. This occurred post-HD
   so could be secondary to hypovolemia, but given patient also febrile
   and episode several hours post-dialysis concerning for continued
   sepsis.
   - Continue to monitor BPs
   - Hold tamsulosin as may be contributing to hypotension
   - wean vasopressin as tolerated
   .
   4. ESRD on HD: will need new line placed after line holiday (48 hours
   culture negative) for bacteremia.  If unable to wait for surveillance
   cx (definite possibility per renal note), will need temporary line
   placement.
   - renal dialysis team consulting
 appreciate recs!
   - f/u cultures
   - HD line removed [**4-23**]
   - likely temporary HD placement tomorrow followed by dialysis (line by
   renal team)
   - monitor electrolytes [**Hospital1 **] for now
   - nephrocaps, phos binder with calcium, sevelamer
   - 1500 cc fluid restriction
   - still with urine in bladder
 bladder scan today and straight cath as
   needed
   .
   5.  C. Diff associated disease
    - continue flagyl
   -  f/u ID recs
   6. PVD: continue Pentoxifylline
   .
   7. Back Pain: appears chronic per patient although more severe in the
   past 1 week.  CT scan at OSH does not show epidural abscess.  Exam not
   concerning for abscess, cord compression or cauda equina syndrome.
   Ultram appears to be sedating to him.  Was seen as OSH by neurosurgery
   who recommended CT scan.
   - continue to monitor
   - pain control with oxycodone prn (start with 2.5 mg as 5 mg caused
   oversedation), standing tylenol
   - lidocaine patch
   - PT consult
   .
   8. CAD: continue aspirin, statin
   - hold b-blocker in the setting of hypotension
   .
   9. DM: has been hypoglycemic during HD. Not currently on any oral
   hyperglycemic agents.
   - humalog SS
   10. Drop in Hct: Possibly dilutional given all cell lines decreased
   today. No signs of active bleeding.
   - Guaiac all stools
   - Repeat Hct, trend PRN
   - Transfuse for < 22 (would avoid the extra fluid if possible)
   .
   # FEN: No IVF, replete electrolytes, renal/cardiac diabetic diet as
   tolerated; 1500 cc fluid restriction daily
   # Prophylaxis: Subcutaneous heparin, pneumoboots
   # Access: PICC
   # Communication: Son is HCP
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2167-4-24**] 06:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2167-04-26 09:56:00 Physician Attending Progress Note
Chief Complaint: Septic shock, pseudomonal bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Remained on vasopressin overnight -- off this AM with MAP of 55 but
   mentating well
   Back/buttocks pain present but improved
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2167-4-25**] 09:27 AM
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2167-4-25**] 12:54 AM
   Meropenem - [**2167-4-25**] 06:45 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-4-25**] 04:05 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Musculoskeletal: back pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2167-4-26**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.9
C (96.7
   HR: 60 (60 - 72) bpm
   BP: 103/67(76) {73/37(46) - 136/78(88)} mmHg
   RR: 11 (0 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.6 kg (admission): 81.6 kg
             Total In:
                                                                  2,625 mL
                                                                    108 mL
   PO:
                                                                  1,230 mL
             TF:
   IVF:
                                                                    495 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,625 mL
                                                                    108 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilateral base)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   8.3 g/dL
   149 K/uL
   95
   5.3 mg/dL
   22 mEq/L
   5.1 mEq/L
   58 mg/dL
   97 mEq/L
   132 mEq/L
   25.6 %
   12.2 K/uL
        [image002.jpg]
                             [**2167-4-22**]  07:45 PM
                             [**2167-4-23**]  04:26 AM
                             [**2167-4-24**]  02:16 AM
                             [**2167-4-24**]  12:30 PM
                             [**2167-4-24**]  05:35 PM
                             [**2167-4-25**]  04:10 AM
                             [**2167-4-26**]  03:08 AM
                             [**2167-4-26**]  07:00 AM
   WBC
   17.3
   44.1
   16.3
   18.7
   14.9
   12.2
   Hct
   28.3
   30.5
   23.4
   25.2
   26.7
   25.4
   25.6
   Plt
   139
   190
   125
   154
   176
   149
   Cr
   5.2
   3.1
   4.1
   4.5
   4.9
   5.3
   Glucose
   147
   97
   72
   64
   55
   96
   95
   Other labs: PT / PTT / INR:13.3/35.9/1.1, ALT / AST:17/21, Alk Phos / T
   Bili:328/0.4, Differential-Neuts:90.5 %, Band:0.0 %, Lymph:7.3 %,
   Mono:1.8 %, Eos:0.3 %, Lactic Acid:1.2 mmol/L, Albumin:2.2 g/dL,
   LDH:251 IU/L, Ca++:6.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 .H/O BACK PAIN
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 IMPAIRED SKIN INTEGRITY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   70 yo man with ESRD here with resolving shock in setting of pseudomonal
   HD cath infection.
   GNRs:  Cont [**Last Name (un) **]/gent.  Still intermittently requiring vasopressin.
   Abd CT without evidence of infection
   ESRD on HD:  Will plan on new HD line [**First Name7 (NamePattern1) 600**]
   [**Initial (NamePattern1) **] [**Last Name (NamePattern4) **]:  Continue flagyl PO.
   Pain:  oxycodone prn.  Pain service following
   Reaminder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2167-4-24**] 06:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2167-04-27 06:43:00 Physician Resident Progress Note
Chief Complaint: - Renal will place temporary HD line tomorrow (plan
   for VIP port - confirm with renal team in AM); plan for HD in PM
   - Gent held for level 1.9 (redose at < 1.8)
   24 Hour Events:
 BLOOD CULTURED - At [**2167-4-26**] 03:17 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2167-4-25**] 06:45 AM
   Metronidazole - [**2167-4-27**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-4-26**] 11:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-27**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 60 (60 - 68) bpm
   BP: 111/61(70) {70/37(46) - 122/65(78)} mmHg
   RR: 16 (9 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.6 kg (admission): 81.6 kg
             Total In:
                                                                  1,061 mL
                                                                     16 mL
   PO:
                                                                    940 mL
             TF:
   IVF:
                                                                    121 mL
                                                                     16 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     90 mL
   Urine:
   90 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,061 mL
                                                                    -74 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   General: Awake/alert, comfortable, and in NAD
   HEENT: NC/AT. On O2 by NC.
   CV: Regular, 2/6 SEM throughout precordium
   Lungs/chest: CTA bilaterally; no apparent tenderness over pacer pocket;
   right HD removed  with no erythema/tenderness
   Abdomen: Soft, NT/ND, +NABS
   Extremities: multiple lesions on feet appear to be healing. Arms
   wrapped in gauze [**2-10**] multiple skin tears/trauma from blood draws
   Labs / Radiology
   168 K/uL
   7.8 g/dL
   117 mg/dL
   6.0 mg/dL
   20 mEq/L
   5.4 mEq/L
   65 mg/dL
   99 mEq/L
   132 mEq/L
   24.2 %
   10.0 K/uL
        [image002.jpg]
                             [**2167-4-23**]  04:26 AM
                             [**2167-4-24**]  02:16 AM
                             [**2167-4-24**]  12:30 PM
                             [**2167-4-24**]  05:35 PM
                             [**2167-4-25**]  04:10 AM
                             [**2167-4-26**]  03:08 AM
                             [**2167-4-26**]  07:00 AM
                             [**2167-4-26**]  12:00 PM
                             [**2167-4-26**]  02:51 PM
                             [**2167-4-27**]  03:50 AM
   WBC
   44.1
   16.3
   18.7
   14.9
   12.2
   10.0
   Hct
   30.5
   23.4
   25.2
   26.7
   25.4
   25.6
   24.2
   Plt
   190
   125
   154
   176
   149
   168
   Cr
   3.1
   4.1
   4.5
   4.9
   5.3
   5.5
   6.0
   Glucose
   97
   72
   64
   55
   96
   95
   117
   188
   117
   Other labs:
   PT / PTT / INR:13.3/31.7/1.1,
   Ca++:6.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.9 mg/dL
   Micro:
   - Blood cultures [**Date range (3) 12718**] NGTD
   Assessment and Plan
   Mr. [**Known lastname 12630**] is a 70yo M w/hx of ESRD on HD, CHF (EF 30-35%), PVD, DM, CAD
   who was transferred from [**Hospital1 **] [**Location (un) 3**] with pseudomonas and GPC
   bacteremia associated with hypotension and fever.
   .
   1. Sepsis/Psuedomonas bacteremia: Normotensive on presentation, but
   febrile and hypotensive overnight on hospital day 1 several hours after
   dialysis.  Bacteremia likely acquired from urine source as pt has
   positive UTI.  Echo done at OSH negative for vegetations.  Although pt
   has mumur on exam, he states this has been present in the past and
   concern for endocarditis is low.  He had been on ceftaz for 2 days.
   Unclear where the pseudomonas is growing, but likely line is infected.
   Culture positive for GNR on [**4-22**] (pseudomonas) in [**1-12**] aerobic bottle so
   far. HD, femoral, and EJ lines have been removed. HD line growing
   pseudomonas. Pacer/AICD pocket ultrasound
 No evidence of fluid
   collection or abscess in the right chest. Abd/pelvis CT without
   appreciable abscess or cause for sepsis
   - Follow up ID recommendations (appreciated!)
   - Continue Gent, Flagyl (will need 4 week course of Abx; Gent should
   continue at least until BCx clear)
   - Changed ceftaz (difficulty with HD dosing) to meropenem until patient
   back on HD
   - Surveillance blood cultures daily (given 5 days negative, can stop
   trending)
   - PICC line in place
   - Suboptimal TTE; TEE likely next week (scheduled for Wednesday).
   - daily EKG
   .
   2. GPCs in blood: Possibly contaminate given it is in [**1-12**] bottles.
   Other concern is for gram positive bacteremia
   - discontinue vancomycin dosed per HD for now
   - redraw blood cultures daily
   .
   3. Hypotension: pt required dopamine gtt which was weaned yesterday;
   then on levophed, off of pressors transiently and now. Differential
   includes sepsis given bactermia vs hypovolemia given setting of
   dialysis.  Cardiac event seems unlikely given negative enzymes or ECG
   changes, although echo did show new wall motion abnormalities in the
   anterior wall, septum and apex. Patient developed hypotension again
   overnight to SBPs in 70s
 started on Levophed. This occurred post-HD
   so could be secondary to hypovolemia, but given patient also febrile
   and episode several hours post-dialysis concerning for continued
   sepsis. Currently off of all pressors.
   - Continue to monitor BPs
   - Hold tamsulosin as may be contributing to hypotension (consider
   restart if BP tolerates)
   .
   4. ESRD on HD: will need new line placed after line holiday (48 hours
   culture negative) for bacteremia.  If unable to wait for surveillance
   cx (definite possibility per renal note), will need temporary line
   placement.
   - renal dialysis team consulting
 appreciate recs!
   - f/u cultures
   - HD line removed [**4-23**]
   - plan for temporary HD placement today followed by dialysis (line by
   renal team)
   - monitor electrolytes [**Hospital1 **] for now
   - nephrocaps, phos binder with calcium, sevelamer
   - 1500 cc fluid restriction
   - still with urine in bladder
 bladder scan today and straight cath as
   needed
   .
   5.  C. Diff associated disease
    - continue flagyl
   -  f/u ID recs
   6. PVD: continue Pentoxifylline
   .
   7. Back Pain: appears chronic per patient although more severe in the
   past 1 week.  CT scan at OSH does not show epidural abscess.  Exam not
   concerning for abscess, cord compression or cauda equina syndrome.
   Ultram appears to be sedating to him.  Was seen as OSH by neurosurgery
   who recommended CT scan.
   - continue to monitor
   - pain control with oxycodone prn (start with 2.5 mg as 5 mg caused
   oversedation), standing tylenol
   - lidocaine patch
   - PT consult
   .
   8. CAD: continue aspirin, statin
   - hold b-blocker in the setting of hypotension
   .
   9. DM: has been hypoglycemic during HD. Not currently on any oral
   hyperglycemic agents.
   - humalog SS
   10. Drop in Hct: Possibly dilutional given all cell lines decreased
   today. No signs of active bleeding.
   - Guaiac all stools
   - Repeat Hct, trend PRN
   - Transfuse for < 22 (would avoid the extra fluid if possible)
   .
   # FEN: No IVF, replete electrolytes, renal/cardiac diabetic diet as
   tolerated; 1500 cc fluid restriction daily, ADAT
   # Prophylaxis: Subcutaneous heparin, pneumoboots
   # Access: PICC
   # Communication: Son is HCP
   # Code:  Full (discussed with patient)
   # Disposition: Called out to floor following HD line placement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2167-4-24**] 06:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2167-04-27 10:11:00 Physician Attending Progress Note
Chief Complaint: Septic shock - resolved
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Off vasopressin since 5AM
   24 Hour Events:
 BLOOD CULTURED - At [**2167-4-26**] 03:17 PM
 CALLED OUT
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2167-4-25**] 06:45 AM
   Metronidazole - [**2167-4-27**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-4-27**] 09:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Genitourinary: Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2167-4-27**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 60 (60 - 63) bpm
   BP: 99/54(65) {84/42(52) - 122/65(78)} mmHg
   RR: 12 (9 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.6 kg (admission): 81.6 kg
             Total In:
                                                                  1,061 mL
                                                                    376 mL
   PO:
                                                                    940 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    121 mL
                                                                     16 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     90 mL
   Urine:
   90 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,061 mL
                                                                    286 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases, Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   7.8 g/dL
   168 K/uL
   117 mg/dL
   6.0 mg/dL
   20 mEq/L
   5.4 mEq/L
   65 mg/dL
   99 mEq/L
   132 mEq/L
   24.2 %
   10.0 K/uL
        [image002.jpg]
                             [**2167-4-23**]  04:26 AM
                             [**2167-4-24**]  02:16 AM
                             [**2167-4-24**]  12:30 PM
                             [**2167-4-24**]  05:35 PM
                             [**2167-4-25**]  04:10 AM
                             [**2167-4-26**]  03:08 AM
                             [**2167-4-26**]  07:00 AM
                             [**2167-4-26**]  12:00 PM
                             [**2167-4-26**]  02:51 PM
                             [**2167-4-27**]  03:50 AM
   WBC
   44.1
   16.3
   18.7
   14.9
   12.2
   10.0
   Hct
   30.5
   23.4
   25.2
   26.7
   25.4
   25.6
   24.2
   Plt
   190
   125
   154
   176
   149
   168
   Cr
   3.1
   4.1
   4.5
   4.9
   5.3
   5.5
   6.0
   Glucose
   97
   72
   64
   55
   96
   95
   117
   188
   117
   Other labs: PT / PTT / INR:13.3/31.7/1.1, ALT / AST:17/21, Alk Phos / T
   Bili:328/0.4, Differential-Neuts:90.5 %, Band:0.0 %, Lymph:7.3 %,
   Mono:1.8 %, Eos:0.3 %, Lactic Acid:1.2 mmol/L, Albumin:2.2 g/dL,
   LDH:251 IU/L, Ca++:6.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 .H/O BACK PAIN
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 IMPAIRED SKIN INTEGRITY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   70 yo man with ESRD here with resolving shock in setting of pseudomonal
   HD cath infection.
   GNRs:  Cont [**Last Name (un) **]/gent.  Off vasopressin - blood pressure normal this AM
   ESRD on HD:  New HD line today followed by HD
   C. diff:  Continue flagyl PO.  WBC coming down
   Pain:  oxycodone prn.  Pain service following
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2167-4-24**] 06:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: